Nucula NFC full differential passive model / 13.56MHz
* Assumed bare-coil model; no nonlinear PN7160 or tag coupling.
* Coilcraft 0805HP-151 doc 158-1/158-27; Rvar frozen at f0.
VP txp 0 DC 0 AC 0.5 0
VN txn 0 DC 0 AC 0.5 180
.subckt emc a b
Rd a x .288
Rskin x y 0.572243488036343
Lcore y b 148.8n
Cpar x z .135p
Rpar z b 10
.ends emc
XLP txp ep emc
XLN txn en emc
Rcp0 ep ep0 .03
Cp0 ep0 0 360p
Rcn0 en en0 .03
Cn0 en0 0 360p
Rcp1 ep sp .03
Cp1 sp mp 68p
Rcn1 en sn .03
Cn1 sn mn 68p
Rcp2 mp mp0 .03
Cp2 mp0 0 100p
Rcn2 mn mn0 .03
Cn2 mn0 0 100p
Rqp mp ap 2.7
Rqn mn an 2.7
Ra ap ai 1.5
La ai an 1.55900493254921e-06
Ca ap an 2e-12
Rrxp ep rp 2200
Rcxp rp rp1 .03
Crxp rp1 rxp 1n
Rinp rxp 0 2200
Rrxn en rn 2200
Rcxn rn rn1 .03
Crxn rn1 rxn 1n
Rinn rxn 0 2200
.ac lin 1 13.56Meg 13.56Meg
.end
